US04278671
In 15 ml of dimethylacetamide is dissolved 4 g of ethyl 2-aminothiazol-4-ylacetate and, under ice-cooling, 3.62 g of chloroacetyl chloride is added dropwise. The mixture is stirred under ice-cooling for 30 minutes and, then, at room temperature for another 30 minutes. Then, following the addition of 50 ml of water, the mixture is extracted twice with 100 ml portions of ethyl acetatetetrahydrofuran. The extract is washed with 100 ml of a 5% aqueous solution of sodium hydrogen carbonate and, then, with 100 ml of a saturated aqueous solution of sodium chloride, followed by drying. The solvent is then distilled off. By the above procedure is obtained 2.95 g of ethyl 2-chloroacetamidothiazol-4-ylacetate as an oily product. The entire amount of this oil is suspended in 100 ml of methanol and, under ice-cooling, 12 ml of water containing 761 mg of sodium hydroxide is added. The mixture is stirred at room temperature for 30 minutes, at the end of which time a major portion of the methanol as distilled off under reduced pressure. To the residue is added 10 ml of water. The water layer is washed with 50 ml of ethyl acetate and after the addition of 20 ml of ethyl acetate, it is adjusted to pH 2 with 10% hydrochloric acid. The mixture is shaken well and the organic layer is taken, washed with a saturated aqueous solution of sodium chloride and dried. The solvent is then distilled off. By the above procedure is obtained 1.51 g of 2-chloroacetamidothiazol-4-ylacetic acid as colorless crystals, melting point: 202°-203° C.

reactant | ethyl 2-aminothiazol-4-ylacetate | 4 g | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | chloroacetyl chloride | 3.62 g | ClCC(=O)Cl | C2H2Cl2O
reactant | water | 50 ml | O | H2O
reactant | dimethylacetamide | 15 ml | CC(=O)N(C)C | C4H9NO
product | ethyl 2-chloroacetamidothiazol-4-ylacetate | 2.95 g | ClCC(=O)NC(C(=O)OCC)C=1N=CSC1 | C9H11ClN2O3S
